US04446277
98 Parts of butyl acrylate and 2 parts of tricyclodecenyl acrylate are polymerized in 154 parts of water containing 2 parts of sodium dioctylsulfosuccinate (70% strength) as emulsifier and 0.5 part of potassium persulfate by stirring for 3 hours at 65° C. A 40% strength dispersion is obtained, the mean particle size of the latex being about 0.1 μm.

reactant | sodium dioctylsulfosuccinate | C(CCCCCCC)C(C(C(=O)[O-])S(=O)(=O)O)(C(=O)[O-])CCCCCCCC.[Na+].[Na+]
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
